US08404694B2
To a mixture of methyl 3-chloro-1H-pyrrole-2-carboxylate (2.50 g, 15.7 mmol) and DMF (10 mL) at 0° C. was added 60% sodium hydride (0.816 g, 20.4 mmol). After 15 min, O-(2,4-dinitrophenyl)hydroxylamine (3.74 g, 18.8 mmol) was added and the mixture was stirred at 0° C. for 1 hr before warming to RT. After 18 hrs, the mixture was diluted with 10% NaCl and extracted with EtOAc. The organic fractions were dried with sodium sulfate and purified by silica gel chromatography using 10-30% Hexanes:EtOAc to afford a crude, brown oil. The oil was taken up in Et2O and treated with 4 N HCl in dioxane. The resulting off-white precipitate was collected by filtration to afford methyl 1-amino-3-chloro-1H-pyrrole-2-carboxylate hydrochloride.

reactant | methyl 3-chloro-1H-pyrrole-2-carboxylate | 15.7 mmol, 2.50 g | ClC1=C(NC=C1)C(=O)OC | C6H6ClNO2
reactant | sodium hydride | 20.4 mmol, 0.816 g | [H-].[Na+]
reactant | O-(2,4-dinitrophenyl)hydroxylamine | 18.8 mmol, 3.74 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])ON | C6H5N3O5
reactant | HCl | 4 N | Cl | ClH
solvent | NaCl | [Na+].[Cl-]
solvent | Et2O | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 1-amino-3-chloro-1H-pyrrole-2-carboxylate hydrochloride | Cl.NN1C(=C(C=C1)Cl)C(=O)OC | InChI=1S/C6H7ClN2O2.ClH/c1-11-6(10)5-4(7)2-3-9(5)8;/h2-3H,8H2,1H3;1H
